US07704996B2
To a solution of C-[1-(4-methoxybenzyl)-4-phenyl-piperidin-4-yl]-methylamine dihydrochloride (3.9 mmol) in ether (20 mL) and 1 N aq. NaOH (20 mL) is added Boc2O (4.6 mmol) at 0° C., then the mixture is stirred at room temperature for 18 h. The reaction mixture is acidified to pH<3 with 10% aq. KHSO4, then the aqueous layer is separated from the organic layer. The acidic aqueous layer is basified to pH>12 with aq. NaOH, then the mixture is quickly extracted with AcOEt (×2). The combined organic extracts are washed with water and brine. The organic layer is dried over MgSO4, filtered, and concentrated to give [1-(4-Methoxybenzyl)-4-phenylpiperidin-4-ylmethyl]carbamic acid tert-butyl ester, which is directly used for the next reaction without further purification.

reactant | C-[1-(4-methoxybenzyl)-4-phenyl-piperidin-4-yl]-methylamine dihydrochloride | 3.9 mmol | Cl.Cl.COC1=CC=C(CN2CCC(CC2)(C2=CC=CC=C2)CN)C=C1
reactant | Boc2O | 4.6 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | NaOH | 1 N, 20 mL | [OH-].[Na+]
product | [1-(4-Methoxybenzyl)-4-phenylpiperidin-4-ylmethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1(CCN(CC1)CC1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C25H34N2O3
